Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neurogenic Claudication
 
Major Surgical or Invasive Procedure:
___ - L4-L5 Laminectomy 

 
History of Present Illness:
___ woman who has had progressive neurogenic 
claudication quite severe up through ___ and 
___ of last year.  She was quite disabled with severe pain 
in her back and legs, unable to
even walk and at some point none of the medications were 
helping, nor did physical therapy, nor did injections, but she 
began to use CBD oil in a vape form, which has been extremely 
beneficial for her.  She is in not nearly as much pain today and 
is more mobile, but after reviewing the films which show severe 
stenosis
at L4-L5 which is  treatable with an L4 laminectomy.
 
Past Medical History:
- Dyslipidemia
- Lumbar Stenosis 
 
Social History:
___
Family History:
NC
 
Physical Exam:
ON DISCHARGE:

 
Pertinent Results:
Please refer to ___ for pertinent imaging and lab results. 
 
Brief Hospital Course:
___ is a ___ year old woman with neurogenic 
claudication and L4-5 lumbar stenosis who presents for elective 
laminectomy. 

#Lumbar stenosis
Patient presented to pre-op area on ___, was evaluated by 
anesthesia and taken to the OR for L4-L5 laminectomy. She 
tolerated the procedure well with no complications. Please refer 
to formal operative report in ___ for further intra-op details. 
Patient was successfully extubated in the OR and transferred to 
the PACU for post operative care. She remained stable and was 
transferred to the floor for continued care. On POD1 she 
mobilized well and pain was well controlled. She was discharged 
home with instructions for follow up in clinic. 

 
Medications on Admission:
ATORVASTATIN - Dosage uncertain -  (Prescribed by Other
Provider)Entered by MA/Other Staff
CELECOXIB [CELEBREX] - Celebrex ___ mg capsule. 1 capsule(s) by
mouth twice a day -  (Prescribed by Other Provider) (Not Taking
as Prescribed)Entered by MA/Other Staff
ESCITALOPRAM OXALATE [LEXAPRO] - Lexapro 20 mg tablet. 1
tablet(s) by mouth once a day -  (Prescribed by Other Provider)
(Not Taking as Prescribed)Entered by MA/Other Staff
HYDROCODONE-ACETAMINOPHEN [VICODIN] - Dosage uncertain - 
(Prescribed by Other Provider)
PRAVASTATIN - Dosage uncertain -  (Prescribed by Other Provider)
(Not Taking as Prescribed)Entered by MA/Other Staff
PREGABALIN [LYRICA] - Lyrica 50 mg capsule. 1 capsule(s) by 
mouth
three times a day start with one pill at bedtime and then
increase as tolerated -  (Not Taking as Prescribed)Entered by
MA/Other Staff
 
Medications - OTC
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Dosage uncertain - 
(Prescribed by Other Provider) (Not Taking as Prescribed)Entered
by MA/Other Staff
___ [GLUCOSAMINE-CHOND-MSM COMPLEX] -
Dosage uncertain -  (Prescribed by Other Provider)
MULTIVITAMIN - Dosage uncertain -  (Prescribed by Other 
Provider:
vitamin D3)
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
Please take this medication while taking narcotic pain meds to 
prevent constipation.   
3.  Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 2 mg 1 tablet by mouth every eight (8) hours Disp 
#*30 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
Please take this medication while taking narcotic pain meds to 
prevent constipation.  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
___ request partial fill.  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
6.  Senna 17.2 mg PO QHS 
Please take this medication while taking narcotic pain meds to 
prevent constipation.  
7.  Atorvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar Stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Spine Surgery without Fusion

Surgery
- Your dressing may come off on the second day after surgery. 
- Your incision is closed with sutures. You will need suture 
removal. Please keep your incision dry until suture removal.
- Do not apply any lotions or creams to the site. 
- Please avoid swimming for two weeks after suture/staple 
removal.
- Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 
- No contact sports until cleared by your neurosurgeon. 

Medications
- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
- Severe pain, swelling, redness or drainage from the incision 
site. 
- Fever greater than 101.5 degrees Fahrenheit
- New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___